US07964612B2
A mixture of 2-bromo-6-methyl-pyridine (602.10 g) and hydrazine hydrate (1570 ml) was refluxed at 120° C. for 6 hours, and then stirred at room temperature for about 48 hours. The solid separated was extracted with diethylether (3×1.5 L) and the combined ether extracts were washed with brine, dried over Na2SO4, filtered and concentrated (˜430 g). The residue was stirred in a mixture of ether (200 ml) and hexane (1.5 L), filtered and washed with 5% diethylether in hexane to give a pale yellow solid (sticky). The solid was vacuum distilled at 106-113° C./2 mm, which solidified instantly. The solid was then dissolved in 2 L of diethylether and precipitated by adding 2 L of hexane, filtered and vacuum dried to give 1-(6-methylpyridin-2-yl)hydrazine as white solid (240 g).

reactant | 2-bromo-6-methyl-pyridine | 602.10 g | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | hydrazine hydrate | 1570 ml | O.NN
product | 1-(6-methylpyridin-2-yl)hydrazine | 240 g | CC1=CC=CC(=N1)NN | C6H9N3
